US05472984
A mixture of 1.2 g of 1-(4-methyl-2-thiazolyl)-2-(2-chloroethoxy)ethanol, 3 ml of a 50% aqueous dimethylamine solution, 0.45 g of potassium iodide and 20 ml of ethanol was refluxed for 3 hours. To the reaction mixture was added 3 ml of a 50% aqueous dimethylamine solution. The resulting mixture was refluxed for 3 hours. The solvent was removed by distillation under reduced pressure. To the residue thus obtained were added 30 ml of ethyl acetate and 30 ml of water. The resulting mixture was adjusted to pH 1.5 with 6N hydrochloric acid. The aqueous layer was separated and washed with 10 ml of ethyl acetate. Thereto was added 30 ml of ethyl acetate. The resulting mixture was adjusted to pH 10.5 with potassium carbonate. The organic layer was separated, washed with 10 ml of water and 10 ml of a saturated aqueous sodium chloride solution in this order, and dried over anhydrous magnesium sulfate. The solvent was removed by distillation under reduced pressure. The residue thus obtained was dissolved in 6 ml of ethanol. To the solution were added 0.6 ml of a 5N dry hydrogen chloride-ethanol solution and 6 ml of diethyl ether. The mixture was stirred at room temperature for 1 hour. The resulting crystals were collected by filtration, washed with 2 ml of a 1:1 mixture of diethyl ether and ethanol, and dried to obtain 390 mg of 1-(4-methyl-2-thiazolyl)-2-[2-(N,N-dimethylamino)ethoxy]ethanol hydrochloride (compound No. 361).

reactant | 1-(4-methyl-2-thiazolyl)-2-(2-chloroethoxy)ethanol | 1.2 g | CC=1N=C(SC1)C(COCCCl)O | C8H12ClNO2S
reactant | dimethylamine | CNC | C2H7N
reactant | potassium iodide | 0.45 g | [I-].[K+]
reactant | hydrochloric acid | 6N | Cl | ClH
reactant | hydrogen chloride ethanol | 5N | Cl.C(C)O
solvent | ethanol | 6 ml | C(C)O | C2H6O
solvent | ethanol | 20 ml | C(C)O | C2H6O
solvent | diethyl ether | 6 ml | C(C)OCC | C4H10O
solvent | water | 30 ml | O | H2O
solvent | ethyl acetate | 30 ml | C(C)(=O)OCC | C4H8O2
product | 1-(4-methyl-2-thiazolyl)-2-[2-(N,N-dimethylamino)ethoxy]ethanol hydrochloride | 390 mg | Cl.CC=1N=C(SC1)C(COCCN(C)C)O | InChI=1S/C10H18N2O2S.ClH/c1-8-7-15-10(11-8)9(13)6-14-5-4-12(2)3;/h7,9,13H,4-6H2,1-3H3;1H
